US04602035
2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-cyano-N-methylethylamine
A solution of 10.9 g (103 mmole) cyanogen bromide and 23 g (86 mmole) of 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N,N-dimethylethylamine in 500 ml CHCl3 was refluxed for 4 hours. The solvent was evaporated and the resultant oil warmed to reflux in 500 ml water. After cooling, the mixture was extracted with CH2Cl2 (2×1 liter), and the organics were washed with 1N HOAc (3×1 liter) and dried over K2CO3. Evaporation gave 20 g of an oil, which was chromatographed on 200 g silica gel using CH2Cl2 as an eluent to give 11 g of an oil which solidified on standing. Recrystallization from acetone/hexane gave 7.1 g (30%) of crystals, m.p. 88°-92°.

reactant | cyanogen bromide | 103 mmole, 10.9 g | N#CBr | CBrN
reactant | 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N,N-dimethylethylamine | 86 mmole, 23 g | C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCN(C)C | C18H21NO
solvent | CHCl3 | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-cyano-N-methylethylamine | 20 g | C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCN(C)C#N | C18H18N2O
